US06333330B1
Ethyl 2-ethoxy-1-methyl-pyrazole-4-carboxylate
Diethyl azodicarboxylate (1.3 ml, 7.5 mmol) was added dropwise to a solution of ethyl 2-hydroxy-1-methyl-pyrazole carboxylate (Chem. Pharm. Bull; 1983; 31; 1228), (880 mg, 5.0 mmol), and triphenylphosphine (2.03 g, 7.5 mmol) in ethanol (0.3 ml, 5.0 mmol) and tetrahydrofuran (100 ml), and the reaction stirred at room temperature for 4 hours. The mixture was concentrated under reduced pressure, the residue partitioned between dichloromethane and water, and the layers separated. The aqueous phase was extracted with dichloromethane, the combined organic solutions washed consecutively with water, 2N aqueous sodium hydroxide, water and finally brine. The solution was then dried (Na2SO4), and evaporated under reduced pressure. The crude product was purified by column chromatography on silica gel using dichloromethane as eluant to afford the title compound (768 mg, 79%), as a crystalline solid.

reactant | Diethyl azodicarboxylate | 7.5 mmol, 1.3 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | ethyl 2-hydroxy-1-methyl-pyrazole carboxylate | 5.0 mmol, 880 mg | ON1N(C=CC1C(=O)OCC)C | C7H12N2O3
reactant | triphenylphosphine | 7.5 mmol, 2.03 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethanol | 5.0 mmol, 0.3 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Ethyl 2-ethoxy-1-methyl-pyrazole-4-carboxylate | 768 mg, 79% | C(C)ON1N(C=C(C1)C(=O)OCC)C | C9H16N2O3
